US04775675
3-[2-(4-Chlorophenoxy)-isobutyryl]-5,5-dimethyl-2(S)-phenylthiazolidine-4(S)-carboxylic acid
1.17 g (5 mmoles) of 5,5-dimethyl-2-phenylthiazolidine-4(S)-carboxylic acid and 0.7 ml of triethylamine are dissolved in 20 ml of dichloromethane while stirring and the solution is cooled to 0° C. Then, 2-(4-chlorophenoxy)-isobutyryl chloride dissolved in 4 ml of dichloromethane is added under stirring. After stirring for 3 hours, the solution is washed with water, dried over anhydrous magnesium sulphate and evaporated. The obtained syrup is recrystallized from methanol by adding water to give the title compound in a yield of 1.39 g (64%), m.p.: 177°-181° C., [α]D21 =0° (c=0.94, dimethylsulphoxide).

reactant | 5,5-dimethyl-2-phenylthiazolidine-4(S)-carboxylic acid | 5 mmoles, 1.17 g | CC1([C@@H](NC(S1)C1=CC=CC=C1)C(=O)O)C | C12H15NO2S
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(4-chlorophenoxy)-isobutyryl chloride | ClC1=CC=C(OC(C(=O)Cl)(C)C)C=C1 | C10H10Cl2O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 3-[2-(4-Chlorophenoxy)-isobutyryl]-5,5-dimethyl-2(S)-phenylthiazolidine-4(S)-carboxylic acid | ClC1=CC=C(OC(C(=O)N2[C@@H](SC([C@@H]2C(=O)O)(C)C)C2=CC=CC=C2)(C)C)C=C1 | C22H24ClNO4S
